US07977351B2
3-(2-Diethylaminomethyl-7H-furo[3,4-b]pyridin-5-ylidene)-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (88 mg, 0.58 mmol.) in THF (4 mL) is placed under an argon atmosphere cooled in an ice bath. A solution of lithium bis(trimethylsilyl)amide (1.55 mL of a 1M solution in THF, 1.55 mmol) is added slowly at 0° C. and the resulting solution is stirred for 20 min. The ice-bath is then removed and a solution of 2-diethylaminomethyl-7H-furo[3,4-b]pyridin-5-one (85 mg, 0.39 mmol) in THF (1 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 3 h and then poured into 10% aqueous HCl solution (20 mL) and stirred for 48 h at room temperature. The solid which precipitated from solution is collected by filtration. The solid is purified by chromatography (silica gel, gradient elution, 100:1 Chloroform/MeOH to 10:1 Chloroform/MeOH). The product containing fractions are concentrated to give the title compound (54 mg, 39%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.58 mmol, 88 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-diethylaminomethyl-7H-furo[3,4-b]pyridin-5-one | 0.39 mmol, 85 mg | C(C)N(CC)CC1=CC=C2C(=N1)COC2=O | C12H16N2O2
reactant | HCl | 20 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-(2-Diethylaminomethyl-7H-furo[3,4-b]pyridin-5-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 54 mg, 39% | C(C)N(CC)CC1=CC=C2C(=N1)COC2=C2C(NC1=CC=C(C=C21)F)=O | C20H20FN3O2
